US04000269
Preparation of S-(α,α-Dimethylbenzylthio)methyl O,O-Diethyl Phosphorodithioate
A mixture of 37.2 grams (0.200 mole) of O,O- diethyl phosphorodithioic acid, 30.5 grams (0.200 mole) of α,α-dimethyl α-toluenethiol and 16.5 ml. (0.220 mole) of methanol-free formalin is stirred vigorously at room temperature for 3 days. The mixture is extracted with 250 ml. of methylene chloride, and this solution is washed with two 30 ml. portions of saturated sodium chloride solution, four 30 ml. portions of 5% potassium hydroxide solution, and three 30 ml. portions of saturated sodium chloride. Evaporation of the solvent from the dried (magnesium sulfate) solution gives a colorless, moderately viscous liquid residue. The proton magnetic resonance spectrum of this material establishes that the desired product is the major component.

reactant | diethyl phosphorodithioic acid | C(C)OP(OCC)(=S)S | C4H11O2PS2
reactant | α,α-dimethyl α-toluenethiol | 0.200 mole, 30.5 grams | CC(C1=CC=CC=C1)(S)C | C9H12S
reactant | methanol | 0.220 mole | CO | CH4O
product | S-(α,α-Dimethylbenzylthio)methyl O,O-Diethyl Phosphorodithioate | P(OCC)(OCC)(=S)SCSC(C1=CC=CC=C1)(C)C | C14H23O2PS3
